US07906517B2
Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-((S)-1-hydroxymethyl-propylamino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate (40 mg) is dissolved in a mixed solvent of methanol (0.3 ml) and tetrahydrofuran (1 ml) and thereto is added a 1M-aqueous sodium hydroxide solution (0.5 ml), and the mixture is stirred at room temperature for 30 minutes. To reaction mixture are added a 10% aqueous citric acid solution and a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure to give 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-((S)-1-hydroxymethyl-propylamino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid (41 mg). MS (m/z): 669 [M+H]+

reactant | Ethyl 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-((S)-1-hydroxymethyl-propylamino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyrate | 40 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)N[C@@H](CC)CO)C=C(C1)C(F)(F)F)(F)F | C31H33F9N4O4
reactant | sodium hydroxide | 0.5 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 0.3 ml | CO | CH4O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-(2-{(3,5-bis-trifluoromethyl-benzyl)-[2-((S)-1-hydroxymethyl-propylamino)-5-trifluoromethyl-benzyl]-amino}-pyrimidin-5-yloxy)-butyric acid | 41 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)N[C@@H](CC)CO)C=C(C1)C(F)(F)F)(F)F | C29H29F9N4O4
